US08193360B2
To prepare this compound, initially 1.0 mL of 98% concentrated sulfuric acid was added to a solution of 5-bromo-2-hydroxy-3-methoxy-benzoic acid, (compound 6) (1.0 g, 4.0 mmol) in 50 of methanol. The reaction mixture was refluxed overnight until thin layer chromatography using 20% ethyl acetate and 80% hexane as the mobile phase indicated that the reaction was complete. After evaporating the methanol, the residue was dissolved in 60 mL of ethyl acetate and washed with a saturated NaHCO3 aqueous solution and then brine. After drying with anhydrous sodium sulfate, the solution was concentrated, and the crude product was purified on a silica gel column to isolate the intermediate, 5-bromo-2-hydroxy-3-methoxy-benzoic acid methyl ester. The yield of this intermediate was 94%. The 1H-NMR spectrum (300 MHz, CDCl3) of the purified product was: 3.88 (s 3H), 3.95 (s, 3H), 7.09 (d, 1H), 7.55 (t, 1H), 10.96 (d, 1H).

reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-bromo-2-hydroxy-3-methoxy-benzoic acid | BrC=1C=C(C(=C(C(=O)O)C1)O)OC | C8H7BrO4
reactant | methanol | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-2-hydroxy-3-methoxy-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)Br)OC)O)=O | C9H9BrO4
